US06136831
The procedure of Example 9 was repeated using 1-(benzothiazol-2-yl)-4,4-difluorobutane-1,3-dione and 4-sulfamoylphenylhydrazine hydrochloride as the starting materials to obtain 4-[5-(benzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide (yield, 37%). NMR(CDCl3 -DMSO-d6) δ: 6.86 (1H, t, J=54.5 Hz), 7.12 (2H, s), 7.25 (1H, s), 7.43-7.66 (4H, m), 7.92-8.06 (4H, m); mp 247-249° C. (DMF-ethanol)

reactant | 1-(benzothiazol-2-yl)-4,4-difluorobutane-1,3-dione | S1C(=NC2=C1C=CC=C2)C(CC(C(F)F)=O)=O | C11H7F2NO2S
reactant | 4-sulfamoylphenylhydrazine hydrochloride | Cl.S(N)(=O)(=O)C1=CC=C(C=C1)NN
product | 4-[5-(benzothiazol-2-yl)-3-difluoromethyl-1H-pyrazol-1-yl]benzenesulfonamide | 37% | S1C(=NC2=C1C=CC=C2)C2=CC(=NN2C2=CC=C(C=C2)S(=O)(=O)N)C(F)F | C17H12F2N4O2S2
